US04940710
A 12.3 g portion of bromo-3,3,3-trifluoropropanone was slowly added to 50 ml of dimethyl sulfoxide and stirred under a dry atmosphere for 21 hours and then diluted to 100 ml with ethanol. A solution of 31 g of N,N-dibenzylethylenediamine in 100 ml of ethanol was added dropwise and the mixture was stirred for 8 hours. A 2.43 g portion of sodium borohydride was added over 30 minutes, this mixture was stirred overnight then the ethanol was removed. The dimethyl sulfoxide residue was dissolved in water and extracted with dichloromethane. The extracts were combined, washed with water and brine and then subjected to flash chromatography on a silica gel column, eluting with ether:hexane (3:7). The 2-(trifluoromethyl)dibenzylpiperazine was dissolved in 25 ml of ethanol in an argon flushed Parr bottle. A 0.63 g portion of 10% palladium on carbon was added and the mixture was shaken under 47 lbs. of hydrogen pressure overnight at 40° C. Filtration and evaporation of the solvent gave 0.55 g of 2-(trifluoromethyl)piperazine as a semi-solid.

reactant | bromo-3,3,3-trifluoropropanone | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | N,N-dibenzylethylenediamine | 31 g | C(C1=CC=CC=C1)N(CCN)CC1=CC=CC=C1 | C16H20N2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(trifluoromethyl)piperazine | 0.55 g | FC(C1NCCNC1)(F)F | C5H9F3N2
